US08017789B2
In 182 mL of methanol, 26.0 g of 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl}propionic acid methyl ester was suspended. After dropping 78 mL of water of 10.5 g of sodium hydroxide at room temperature, the result was stirred for 30 minutes at the same temperature. The reaction mixture was added to water. After adjusting to pH 1.5 with a 6 mol/L hydrochloric acid, solids were filtered. The obtained solids were dissolved in a mixture solution of chloroform and methanol. After washing with water, solvent was distilled off under reduced pressure to obtain 22.5 g of 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl}propionic acid in the form of a light yellowish solid.

reactant | 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl}propionic acid methyl ester | 26.0 g | COC(CCC1=C(C=CC(=C1)C(C1=C(C=C(C=C1)OC1CCCC1)O)=O)OCC1=CC2=C(C(=NO2)O)C=C1)=O | C30H29NO8
reactant | water | 78 mL | O | H2O
reactant | sodium hydroxide | 10.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methanol | 182 mL | CO | CH4O
product | 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl}propionic acid | 22.5 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC2=CC3=C(C(=NO3)O)C=C2)C=C1)O | C29H27NO8
